US07528135B2
N-[6-(4-Cyclopentyl-piperazin-1-yl)-pyridin-3-ylmethyl]-butyramide
A mixture of 26 mg (0.1 mmol) C-[6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-methylamine, 20 mg (0.2 mmol) triethylamine and 12 mg (0.11 mmol) butyryl chloride in DCM was stirred at room temperature. After evaporation acetonitrile/DMF was added and the mixture was subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.05% triethylamine). The combined product fractions were evaporated to dryness to yield 20.3 mg (61%) of the title compound. (m/e): 331.3

reactant | C-[6-(4-cyclopentyl-piperazin-1-yl)-pyridin-3-yl]-methylamine | 0.1 mmol, 26 mg | C1(CCCC1)N1CCN(CC1)C1=CC=C(C=N1)CN | C15H24N4
reactant | triethylamine | 0.2 mmol, 20 mg | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.11 mmol, 12 mg | C(CCC)(=O)Cl | C4H7ClO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[6-(4-Cyclopentyl-piperazin-1-yl)-pyridin-3-ylmethyl]-butyramide | 20.3 mg, 61% | C1(CCCC1)N1CCN(CC1)C1=CC=C(C=N1)CNC(CCC)=O | C19H30N4O
